US07901594B2
Dimethyl 1,4,6,11-tetrapropylnaphthacene-2,3-dicarboxylate
2,3-Dichloro-5,6-dicyanobenzoquinone (0.050 g, 0.22 mmol) was added to a solution of dimethyl 5,12-dihydro-1,4,6,11-tetrapropylnaphthacene-2,3-dicarboxylate (0.103 g, 0.2 mmol) in 1,4-dioxane (5 ml). Subsequently, the mixture was refluxed for 3 hours. After filtration, the solvent in the mixture was removed in vacuum. Chloroform was added and the mixture was again filtered. Recrystallization from chloroform/methanol gave 0.076 g of the title compound as red needle-like crystals. The NMR yield was 97% and the isolated yield was 71%. The X-ray crystal structure analysis of the title compound is show in FIG. 4

reactant | 2,3-Dichloro-5,6-dicyanobenzoquinone | 0.22 mmol, 0.050 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
reactant | dimethyl 5,12-dihydro-1,4,6,11-tetrapropylnaphthacene-2,3-dicarboxylate | 0.2 mmol, 0.103 g | C(CC)C1=C(C(=C(C=2CC3=C(C4=CC=CC=C4C(=C3CC12)CCC)CCC)CCC)C(=O)OC)C(=O)OC | C34H42O4
solvent | 1,4-dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | Dimethyl 1,4,6,11-tetrapropylnaphthacene-2,3-dicarboxylate | 0.076 g, yield was 97% | C(CC)C1=C(C(=C(C2=CC3=C(C4=CC=CC=C4C(=C3C=C12)CCC)CCC)CCC)C(=O)OC)C(=O)OC | C34H40O4
